US08710242B2
6-(tert-Butoxycarbonyl)-1-benzofuran-2-carboxylic acid
A solution of 6-tert-butyl 2-ethyl 1-benzofuran-2,6-dicarboxylate (490 mg, 1.68 mmol) in ethanol (15 ml) was admixed with sodium hydroxide solution (3.36 ml, 1 M) and heated under reflux for 2 h. The cooled solution was added to ice-cooled hydrochloric acid (1 M), and the precipitate was filtered off with suction, washed with a little water and dried under reduced pressure.

reactant | 6-tert-butyl 2-ethyl 1-benzofuran-2,6-dicarboxylate | 1.68 mmol, 490 mg | O1C(=CC2=C1C=C(C=C2)C(=O)OC(C)(C)C)C(=O)OCC | C16H18O5
reactant | sodium hydroxide | 1 M, 3.36 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(tert-Butoxycarbonyl)-1-benzofuran-2-carboxylic acid | C(C)(C)(C)OC(=O)C1=CC2=C(C=C(O2)C(=O)O)C=C1 | C14H14O5
